US09163021B2
(5-Bromopyridin-2-yl)acetic acid
To a solution of diethyl(5-bromopyridin-2-yl)malonate (Preparation 84, 5.28 g, 16.70 mmol) in THF (50 mL) was added a solution of LiOH (2.10 g, 50.13 mmol) in water (12.5 mL) and the reaction was heated to 60° C. for 3 hours. The reaction was cooled and acidified to pH 3-4 with 2N HCl and diluted with 20% IPA in DCM. The organic layer was collected, dried over sodium sulphate and concentrated in vacuo. The crude residue was triturated with hexane to afford the title compound.

reactant | diethyl(5-bromopyridin-2-yl)malonate | 16.70 mmol, 5.28 g | C(C)OC(C(C(=O)OCC)C1=NC=C(C=C1)Br)=O | C12H14BrNO4
reactant | LiOH | 50.13 mmol, 2.10 g | [Li+].[OH-]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 12.5 mL | O | H2O
solvent | IPA | CC(C)O | C3H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (5-Bromopyridin-2-yl)acetic acid | BrC=1C=CC(=NC1)CC(=O)O | C7H6BrNO2
